Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr ___ is a ___ retired surgeon with PMHx of CAD c/b
MI ___ s/p PCI on DAPT, HTN, hypothyroidism, urolithiasis who
presents after episode of syncope

Patient reports that he was working in the garden outside when 
he
started to feel lightheaded and dizzy. He reports this is
relatively common for him while working outdoors in the ___
time. He usually rests with relief of symptoms. However, this
time as he was climbing over fence he felt more lightheadedness
and lost consciousness with head strike. Episode was not
witnessed. EMS was called by bystander who found him. In
ambulance pt was reportedly awake but unable to recall events as
he was given versed out of cf seizure activity. He remembers
waking up in the ED, likely when versed wore off. 

In the ED: afebrile, HR 88, BP 138/74, RA 96% on RA in trauma
room
Labs: wbc 7.2, hgb 14.5, trop neg. Gluc 114, Cr 1.5 (bl 1.3),
bicarb 18 and lactic acid 6.8 -> 1.6 after 1L LR. UTox +benzo
(from EMS)
CTH neg for bleed and CT c spine with degenerative disease, no
fracture
CXR without PNA, e/o old rib fractures 
Neuro consulted for ?seizure: felt more c/w syncope and less 
with
seizure even in setting of elev lactic acid. Recommended follow
up in neuro urgent care clinic

Patient reports similar episode ~ ___ y ago for which he was
admitted to ___ for syncopal episode after
working outdoors in ___. He reports having CTH, MRI of
brain, EEG, and stress test at that time that were all negative. 


Pt reports walking around in the ED without any
lightheadedness/dizziness since the incident. He also denies any
other presyncopal symptoms of CP, SOB, palpitations, n/v,
diaphoresis. Denies recent f/c, dysuria, diarrhea or poor PO
intake. 

 
Past Medical History:
CAD status post stents, on aspirin and Plavix
Mild CKD [baseline creatinine 1.2
Hyperlipidemia
Gout

 
Social History:
___
Family History:
Negative for sudden cardiac death , negative for
seizures, +glioblastoma in maternal uncle

 
Physical ___:
PHYSICAL EXAM ON ADMISSION:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: alert, awake, NAD. 
EYES: Anicteric, PERRL
ENT: Bruise on L forehead. Ears and nose without visible
erythema, masses, or trauma.  MMM
CV: RRR, no m/r/g.  No JVD.
RESP: no increased wob, lungs clear to auscultation in all 
fields
GI: +BS, abd soft, ND. no tenderness to palpation 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

PHYSICAL EXAM ON DISCHARGE:
VITALS: Orthostatics negative
GENERAL: alert, awake, NAD. 
EYES: Anicteric, PERRL
ENT: Bruise on L forehead. Ears and nose without visible
erythema, masses, or trauma.  MMM
CV: RRR, no m/r/g.  No JVD. No carotid bruit.
RESP: no increased wob, lungs clear to auscultation in all 
fields
GI: +BS, abd soft, ND. no tenderness to palpation 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Pleasant, appropriate affect, no SI or HI

 
Pertinent Results:
LAB RESULTS ON ADMISSION:
=========================
___ 09:40AM BLOOD WBC-7.2 RBC-4.48* Hgb-14.5 Hct-43.4 
MCV-97 MCH-32.4* MCHC-33.4 RDW-13.3 RDWSD-47.5* Plt ___
___ 09:40AM BLOOD Glucose-114* UreaN-27* Creat-1.5* Na-141 
K-3.9 Cl-108 HCO3-18* AnGap-15
___ 09:40AM BLOOD CK(CPK)-208
___ 09:40AM BLOOD cTropnT-<0.01
___ 09:31PM BLOOD cTropnT-<0.01
___ 07:00AM BLOOD Mg-2.0
___ 09:40AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 09:53AM BLOOD ___ pO2-140* pCO2-36 pH-7.31* 
calTCO2-19* Base XS--7
___ 09:53AM BLOOD Lactate-6.8*

LAB RESULTS ON DISCHARGE:
=========================
___ 07:00AM BLOOD WBC-6.9 RBC-4.39* Hgb-14.3 Hct-42.8 
MCV-98 MCH-32.6* MCHC-33.4 RDW-13.2 RDWSD-47.4* Plt ___
___ 07:00AM BLOOD Glucose-102* UreaN-24* Creat-1.2 Na-144 
K-4.2 Cl-111* HCO3-23 AnGap-10
___ 07:00AM BLOOD Glucose-102* UreaN-24* Creat-1.2 Na-144 
K-4.2 Cl-111* HCO3-23 AnGap-10
___ 09:31PM BLOOD cTropnT-<0.01
___ 12:13PM BLOOD Lactate-1.6

IMAGING:
========
CT HEAD WITHOUT CONTRAST ___:
1. Mildly motion limited exam without evidence for acute 
intracranial 
abnormalities or calvarial fracture. 
2. Extensive supratentorial white matter hypodensities are 
nonspecific but 
likely sequela of chronic small vessel ischemic disease, given 
the patient's age and known cardiovascular disease. 

CT C-SPINE WITHOUT CONTRAST ___:
1. No evidence for a fracture.  No subluxation. 
2. Multilevel degenerative disease.  Spinal canal stenosis 
appears moderate on the right at C6-C7, and mild at several 
other levels. 

CXR ___:
1. No acute cardiopulmonary process. 
2. No acute fracture or dislocation in the pelvis. 
3. Remote right posterior rib fractures and status post ORIF of 
a right 
midclavicular fracture. 
 

 
Brief Hospital Course:
Dr. ___ is a ___ year old retired ___ with history of 
inferior STEMI s/p ___ ___ and syncope (with negative work 
up in past) who presents with syncope.

# Syncope
Patient presented with syncope with prodromal 
lightheadedness/dizziness while moving rocks in yard, no 
associated chest pain, palpitations, shortness of breath. 
Reports prior history of syncope with extensive work up at ___ 
including EEG, MRI head, stress head, all of which were negative 
(not available for review). 

Lactic acid elevated to 6.8 on arrival, quickly resolving to 1.6 
with 1L fluids. He was seen by neurology, who had low suspicion 
for seizure history. CTH and CT C-spine only notable for small 
vessel ischemic disease. EKG with old inferior MI, no acute 
ischemic changes, troponin negative x 2. Orthostatics were 
negative, although this was performed after receiving IVF. 
Overall, could be consistent with vasovagal cause (although 
elevated lactic acid not c/w this) or orthostasis/dehydration 
given mild ___ and repetitive activity of bending/lifting. 

Given cardiac history, we had planned for further work up with 
TTE and consideration of event monitor, however Dr. ___ 
___ prefers for this to be done with his cardiologist at 
___. Reviewed prior TTE from ___, at that time with normal 
left ventricular size with mildly impaired systolic function, 
ejection fraction 50% with inferior hypokinesis; minimally 
thickened aortic valve; mild mitral regurgitation. Note that 
while patient is beta-blocked, he was able to augment HR while 
ambulating. 

At time of discharge, he was ambulating independently without 
difficulties. He will follow up with his outpatient cardiologist 
as well as neuro urgent care clinic. 

# ___: On admission, Cr elevated to 1.5 from baseline 1.0-1.2, 
resolved with IVF to 1.2 on discharge.

CHRONIC/STABLE PROBLEMS:
# Urolithiasis: Continue home allopurinol ___
- CAD c/b MI s/p PCI: Continue DAPT (although DES in ___, per 
outpatient cardiology note plan to continue indefinitely), 
statin, metop 50 daily
- Hypothyroidism: c/h Synthroid ___ 

TRANSITIONAL ISSUES:
[] Follow up with outpatient cardiology; consider TTE +/- event 
monitor
[] Follow up with neurology urgent care clinic
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. Allopurinol ___ mg PO DAILY 
6. Levothyroxine Sodium 125 mcg PO DAILY 

 
Discharge Medications:
1.  Allopurinol ___ mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 40 mg PO QPM  
4.  Clopidogrel 75 mg PO DAILY  
5.  Levothyroxine Sodium 125 mcg PO DAILY  
6.  Metoprolol Succinate XL 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Syncope
Acute kidney injury, pre-renal

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,

___ was a pleasure taking care of you at ___!

You came to us after syncopal episode after moving rocks in your 
yard. While you were here you were evaluated by our neurology 
team, who had low concern for new onset seizures. Telemetry did 
not reveal any arrhythmias, and blood work was only notable for 
mild kidney injury, which resolved with fluids. Given your 
history of cardiac disease, and episodes of pre-syncope we had 
planned for further work up with echocardiogram and 
consideration of event monitor, however, you preferred to have 
this done at ___ with your cardiologist.

Please continue to take your medications as prescribed, and 
follow up with your cardiologist and the neurology team.

Please take care, we wish you the very best!

Sincerely,
Your ___ Care Team

 
Followup Instructions:
___